US06476235B2
A dry, nitrogen inerted reactor is charged with sodium hydride (300 mmol). Anhydrous THF (150 mL) is added and the resulting mixture is cooled under nitrogen to ca. −20° C. Ethyl acetoacetate (307 mmol) is added at such a rate as to maintain an internal reaction temperature of ≦−10° C. The addition is followed by a THF rinse (30 mL) and the resulting solution is stirred for approximately 45 minutes at ≦−10° C. The temperature is allowed to cool to ca. −18° C. A 10.0 M solution of n-BuLi in hexanes (300 mmol) is added at such a rate as to maintain an internal reaction temperature of ≦−4° C. The addition is followed by a THF rinse (30 mL) and the resulting orange solution is stirred for about 90 minutes at ≦−4° C. The temperature is allowed to cool to ca. −25° C. To the solution of dienolate is added 5-(4-fluorophenyl)-2-isopropyl-1-(3-morpholin-4-yl-3-oxo-propyl)-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide (74 mmol), and the resulting slurry is stirred at ca. −23° C. for 20 hours. The reaction is quenched into a mixture of 18% aqueous HCl (898 mmol) and MtBE (20 mL) at such a rate as to maintain an internal reaction temperature of ≦−2° C. The reactor and transfer system is rinsed with THF (30 mL) and transferred to the reaction mixture. The two-phase solution is allowed to warm to ca. 20° C. with stirring. The mixture is transferred to a separatory funnel, and the phases are allowed to separate. The organic layer is washed with water (33 mL) and saturated aqueous NaCl (33 mL). All aqueous layers are back-extracted with MtBE (40 mL). The two organic layers are combined and concentrated in vacuo to a crude oil maintaining an internal batch temperature of ≦60° C. EtOH (24 mL) is added to the oil and, again, the mixture is concentrated in vacuo. EtOH (330 mL) and water (33 mL) are immediately added to the resulting oil, and the solution of product is allowed to stand at ≦10° C. for ca 14 hours. The resulting solid is collected, washed with cold 20% aqueous EtOH (100 mL) and dried in vacuo to afford 7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dioxo-heptanoic acid, ethyl ester (35.6 g) as a white solid. This material is carried on to subsequent steps without further purification, or optionally, it can be re-precipitated from IPA/H2O.

reactant | sodium hydride | 300 mmol | [H-].[Na+]
reactant | Ethyl acetoacetate | 307 mmol | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | n-BuLi | [Li]CCCC
reactant | 5-(4-fluorophenyl)-2-isopropyl-1-(3-morpholin-4-yl-3-oxo-propyl)-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide | 74 mmol | C1(=CC=CC=C1)NC(=O)C1=C(N(C(=C1C1=CC=CC=C1)C1=CC=C(C=C1)F)CCC(=O)N1CCOCC1)C(C)C | C33H34FN3O3
reactant | HCl | 898 mmol | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dioxo-heptanoic acid, ethyl ester | 35.6 g | FC1=CC=C(C=C1)C=1N(C(=C(C1C1=CC=CC=C1)C(NC1=CC=CC=C1)=O)C(C)C)CCC(CC(CC(=O)OCC)=O)=O | C35H35FN2O5
